US08877975B2
To a mixture of 2-bromomethyl-6-fluoro-naphthalene (1.5 g, 5.9 mmoL) in CH3CN (30 mL) was added KCN (1.16 g, 17.8 mmoL). The reaction mixture was heated at reflux for 6 h before being concentrated. To the residue was added diethyl ether (100 mL) and H2O (15 mL). The organic layer was separated, dried and concentrated. The resultant residue was purified by silica gel column chromatography (ethyl acetate/hexane=1:10) to afford the (6-fluoro-naphthalen-2-yl)-acetonitrile (0.88 g, 70%).

reactant | 2-bromomethyl-6-fluoro-naphthalene | 1.5 g | BrCC1=CC2=CC=C(C=C2C=C1)F | C11H8BrF
reactant | KCN | 1.16 g | [C-]#N.[K+]
solvent | CH3CN | 30 mL | CC#N | C2H3N
product | (6-fluoro-naphthalen-2-yl)-acetonitrile | 0.88 g, 70% | FC=1C=C2C=CC(=CC2=CC1)CC#N | C12H8FN
